US07674815B2
Potassium hydroxide (2 M aq. solution, 0.98 mL, 1.96 mmol) was added at RT to a solution of 5-tert-butyl-pyridine-2-carboxylic acid methyl ester (synthesized according to J. Org. Chem. 1998, 63, 7840-7850; 189 mg, 0.98 mmol) in THF (2.6 mL), then after stirring for 2 h, the reaction mixture was evaporated. The residue was taken up in DMF (12 mL), then after addition of 2-(3,4-dichloro-phenyl)-ethylamine (204 mg, 1.07 mmol), 4-methylmorpholine (297 mg, 2.93 mmol), and HBTU (556 mg, 1.47 mmol), the reaction mixture was stirred at RT for 16 h, then partitioned between water and ethyl acetate. The organic layer was washed with brine, dried (MgSO4), and concentrated. Chromatography (SiO2, heptane-ethyl acetate gradient) produced 5-tert-butyl-pyridine-2-carboxylic acid [2-(3,4-dichloro-phenyl)-ethyl]-amide (200 mg, 58%). White solid, MS (ISP): 351.4 (M+H)+.

reactant | Potassium hydroxide | 1.96 mmol, 2 M, 0.98 mL | [OH-].[K+]
reactant | 5-tert-butyl-pyridine-2-carboxylic acid methyl ester | 0.98 mmol, 189 mg | COC(=O)C1=NC=C(C=C1)C(C)(C)C | C11H15NO2
reactant | 2-(3,4-dichloro-phenyl)-ethylamine | 1.07 mmol, 204 mg | ClC=1C=C(C=CC1Cl)CCN | C8H9Cl2N
reactant | 4-methylmorpholine | 2.93 mmol, 297 mg | CN1CCOCC1 | C5H11NO
reactant | HBTU | 1.47 mmol, 556 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
product | 5-tert-butyl-pyridine-2-carboxylic acid [2-(3,4-dichloro-phenyl)-ethyl]-amide | 200 mg, 58% | ClC=1C=C(C=CC1Cl)CCNC(=O)C1=NC=C(C=C1)C(C)(C)C | C18H20Cl2N2O
